US07790756B2
Trifluoroacetic acid (10 mL) was added to a solution of [4-(4-amino-3-fluoro-phenoxy)-pyridin-2-yl]-ethyl-(4-methoxybenzyl)amine (1.2 g, 3.27 mmol) in CH2Cl2 (50 mL) and the resulting solution was heated to 40° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue was treated with HCl (5 mL, 12M, 60 mmol) and water (50 mL). The solution was washed with EtOAc (4×50 mL). The aqueous layer was treated with NaHCO3 until pH=8 and then extracted with EtOAc (3×50 mL). The combined extracts were washed with brine (3×50 mL), dried (NaSO4) and concentrated in vacuo to give 4-(4-amino-3-fluorophenoxy)-N-ethylpyridin-2-amine (0.45 g, 67% yield). 1H NMR (300 MHz, DMSO-d6) δ7.79 (d, J=5.7, 1H), 6.85 (dd, J=11.7, 2.4 Hz, 1H), 6.78 (t, J=8.7 Hz, 1H), 6.67 (dd, J=8.7, 2.4 Hz, 1H), 6.39 (m, 1H), 6.05 (dd, J=5.7, 2.1 Hz, 1H), 5.72 (d, J=2.1 Hz, 1H), 5.09 (s, 2H), 3.15 (m, 2H), 1.03 (t, J=7.2, 3H); MS (ESI) m/z: 248.2 (M+H+).

reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [4-(4-amino-3-fluoro-phenoxy)-pyridin-2-yl]-ethyl-(4-methoxybenzyl)amine | 3.27 mmol, 1.2 g | NC1=C(C=C(OC2=CC(=NC=C2)N(CC2=CC=C(C=C2)OC)CC)C=C1)F | C21H22FN3O2
reactant | HCl | 60 mmol, 12M, 5 mL | Cl | ClH
reactant | water | 50 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-amino-3-fluorophenoxy)-N-ethylpyridin-2-amine | 0.45 g, 67% yield | NC1=C(C=C(OC2=CC(=NC=C2)NCC)C=C1)F | C13H14FN3O
